US04614807
The above nitrovinyl compound was reduced with lithium aluminum hydride according to the following procedure: 8.2 g of lithium aluminum hydride were stirred with 235 ml of tetrahydrofuran (THF) under a nitrogen blanket. 10.67 g of 18M sulfuric acid were added to 43 ml of THF which was cooled to about 0° C. during the addition. This solution was added to the lithium aluminum hydride mixture. Next, a solution of 2.20 g of 2-methyl-3-(2-nitrovinyl)-5-methoxy-6,7-dichloroindole in 43 ml of THF was added thereto in dropwise fashion at ambient temperature over a period of about 1.25 hours. The reaction mixture was stirred for an additional 1.25 hours, and was then diluted with ice, followed by the addition of cold 20% aqueous sodium hydroxide. Chloroform was added to the mixture, and the chloroform extract separated. The chloroform extraction process was repeated, and the chloroform extracts combined and dried. Removal of the solvent yielded a residue comprising 2-methyl-5-methoxy-6,7-dichlorotryptamine formed in the above reaction. The residue was dissolved with difficulty in hot boiling ethyl acetate. The ethyl acetate solution was cooled, and hexane added to the point of incipient precipitation. The recrystallization mixture was then chilled. Crystalline 2-methyl-5-methoxy-6,7-dichlorotryptamine thus formed was collected by filtration. The crystals melted at about 228°-230° C. Total yield, including second crop material, was 73%.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 8.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | 18M, 10.67 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-3-(2-nitrovinyl)-5-methoxy-6,7-dichloroindole | 2.20 g | CC=1NC2=C(C(=C(C=C2C1C=C[N+](=O)[O-])OC)Cl)Cl | C12H10Cl2N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 43 ml | O1CCCC1 | C4H8O
solvent | THF | 43 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 235 ml | O1CCCC1 | C4H8O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-5-methoxy-6,7-dichlorotryptamine | CC1=C(CCN)C2=CC(=C(C(=C2N1)Cl)Cl)OC | C12H14Cl2N2O
